US07601844B2
A 4M solution of HCl in dioxane (10 mL) was added to (R)-tert-butyl 1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (2.0 g) and the resulting solution was allowed to stir at rt. for 1 h. After this time, the solvent was removed by rotary evaporation to provide an oil. The oil was dried overnight in vacuo to provide (R)-2-amino-1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methylbutan-1-one hydrochloride as a white foam.

reactant | HCl | Cl | ClH
reactant | (R)-tert-butyl 1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 2.0 g | ClC1=CC=C(C=C1)C1(CCN(CC1)C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)O | C21H31ClN2O4
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methylbutan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl)C(C)C | InChI=1S/C16H23ClN2O2.ClH/c1-11(2)14(18)15(20)19-9-7-16(21,8-10-19)12-3-5-13(17)6-4-12;/h3-6,11,14,21H,7-10,18H2,1-2H3;1H/t14-;/m1./s1
